US09169254B2
A suspension of 2-cyclohexyl-8-methanesulfonyl-1,3,8-triaza-spiro[4.5]dec-1-en-4-one (100 mg, 0.319 mmol) in 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (0.66 mL) was cooled to 0° C. A 1 M solution of lithium hexamethyldisilazide in tetrahydrofuran (0.989 ml) was then added and the mixture was stirred at room temperature for 30 minutes. After cooling again to 0° C., a solution of 1-((S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-indole-4-carbaldehyde (87 mg, 0.335 mmol) in tetrahydrofuran (0.4 mL) was added and the mixture was stirred at 0° C. for five hours. Water was added and the aqueous layer was extracted with ethyl acetate. The organic layer was washed with water and then dried over sodium sulfate. After concentration, the residue was purified by silica gel column chromatography to give 2-cyclohexyl-8-{2-[1-((S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-1H indol-4-yl]-2-hydroxy-ethanesulfonyl}-1,3,8-triaza-spiro[4.5]dec-1-en-4-one (113 mg, 62%) as a pale yellow solid.

reactant | 2-cyclohexyl-8-methanesulfonyl-1,3,8-triaza-spiro[4.5]dec-1-en-4-one | 0.319 mmol, 100 mg | C1(CCCCC1)C1=NC2(C(N1)=O)CCN(CC2)S(=O)(=O)C | C14H23N3O3S
reactant | lithium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 1-((S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-indole-4-carbaldehyde | 0.335 mmol, 87 mg | CC1(OC[C@@H](O1)CN1C=CC=2C(=CC=CC12)C=O)C | C15H17NO3
reactant | Water | O | H2O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 0.66 mL | CN1C(N(CCC1)C)=O | C6H12N2O
solvent | tetrahydrofuran | 0.989 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.4 mL | O1CCCC1 | C4H8O
product | 2-cyclohexyl-8-{2-[1-((S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-1H indol-4-yl]-2-hydroxy-ethanesulfonyl}-1,3,8-triaza-spiro[4.5]dec-1-en-4-one | 113 mg, 62% | C1(CCCCC1)C1=NC2(C(N1)=O)CCN(CC2)S(=O)(=O)CC(O)C2=C1C=CN(C1=CC=C2)C[C@@H]2OC(OC2)(C)C | C29H40N4O6S
